US07166595B2
b) 1-Benzyl-2-(1-t-butoxycarbonylamino-2-methyl-propyl)-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid methyl ester
To a stirred solution of 1-Benzyl-2-(1-t-butoxycarbonylamino-2-methyl-propyl)-4-methyl-6-oxo-1,4,5,6-tetrahydro-pyrimidine-5-carboxylic acid methyl ester (6.37 g, 14.8 mMol) in CCl4 (150 mL) was added K2CO3 (4.0 g, 29 mMol), N-Bromosuccinimde (2.63 g, 14.8 mMol) and Benzoyl peroxide (0.18 g, 0.74 mMol). The reaction was refluxed for 0.5 h, cooled to RT, filtered through a pad of Celite®, and rinsed with CH2Cl2. The filtrate was concentrated tinder vacuum and purified by flash chromatography (step gradient of 0 to 5% EtOAc in CH2Cl2). The semi-purified product obtained was taken up in a solution of 20% EtOAc in hexane (10 mL) at which point the product began to crystallize out. The mixture was diluted with a solution of 10% Et2O in pet. Et2O (50 mL), triturated, filtered and dried under vacuum to give the title compound (2.56 g, 40%) as a white solid: MS (ES) m/e 432.2 and 430.2 (M+H)+.

reactant | 1-Benzyl-2-(1-t-butoxycarbonylamino-2-methyl-propyl)-4-methyl-6-oxo-1,4,5,6-tetrahydro-pyrimidine-5-carboxylic acid methyl ester | 14.8 mMol, 6.37 g | COC(=O)C1C(N=C(N(C1=O)CC1=CC=CC=C1)C(C(C)C)NC(=O)OC(C)(C)C)C | C23H33N3O5
reactant | K2CO3 | 29 mMol, 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Benzoyl peroxide | 0.74 mMol, 0.18 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CCl4 | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 1-Benzyl-2-(1-t-butoxycarbonylamino-2-methyl-propyl)-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid methyl ester | 2.56 g, 40% | COC(=O)C1=C(N=C(N(C1=O)CC1=CC=CC=C1)C(C(C)C)NC(=O)OC(C)(C)C)C | C23H31N3O5
